* File: NOR2D4.pex.netlist.pex
* Created: Sat Dec 13 12:33:15 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NOR2D4_VSS 1 21 22 25 26 27 28 46 47 50 57 58 59
r12 61 66 0.316286
r13 54 66 1
r14 52 66 1
r15 52 54 0.15269
r16 49 66 1
r17 49 52 0.15269
r18 49 50 0.251086
r19 47 50 1.19215
r20 46 47 1.19215
r21 46 57 1.19215
r22 39 59 3.70556
r23 37 59 6.92783
r24 34 58 5.08901
r25 27 28 3.9885
r26 27 59 3.9885
r27 26 59 3.98871
r28 25 26 3.9885
r29 22 59 6.52675
r30 22 25 3.9885
r31 21 39 3.8399
r32 21 28 3.98871
r33 20 37 11.6568
r34 19 20 11.6568
r35 17 18 4.87757
r36 15 61 1
r37 15 17 4.87757
r38 13 61 1
r39 13 15 2.6107
r40 11 61 1
r41 11 13 2.6107
r42 11 34 3.26338
r43 5 58 6.52675
r44 5 58 6.52675
r45 4 58 3.26338
r46 4 58 6.52675
r47 1 19 11.6568
r48 1 18 4.87783
.ends

.subckt PM_NOR2D4_net11 4 5 10 11 16 17 22 23 28 29 34 35 40 41 46 47 63 77 78
+ 87 88 89 90 91 92 93 94 95 96
r119 107 109 0.2952
r120 105 107 0.2952
r121 103 105 0.738
r122 101 103 0.2952
r123 98 101 0.2952
r124 85 109 1
r125 78 87 1.17512
r126 77 78 1.17512
r127 76 77 1.17512
r128 75 76 1.17512
r129 72 75 1.17512
r130 71 85 0.156299
r131 70 72 0.252919
r132 70 71 2.03688
r133 69 107 1
r134 66 105 1
r135 66 69 0.2952
r136 64 85 0.104199
r137 64 69 0.2214
r138 63 103 1
r139 61 101 1
r140 61 63 2.80374
r141 59 98 1
r142 59 61 2.80374
r143 57 59 5.60747
r144 56 57 11.2149
r145 55 56 11.2149
r146 54 55 11.2149
r147 54 88 10.514
r148 51 88 0.700934
r149 50 51 11.2149
r150 49 50 11.2149
r151 47 96 20.306
r152 46 47 20.3052
r153 43 63 8.02037
r154 43 46 20.3052
r155 41 95 20.306
r156 40 41 20.3052
r157 37 57 8.02037
r158 37 40 20.3052
r159 35 94 20.306
r160 34 35 20.3052
r161 31 56 8.02037
r162 31 34 20.3052
r163 29 93 20.306
r164 28 29 20.3052
r165 25 55 8.02037
r166 25 28 20.3052
r167 23 92 20.306
r168 22 23 20.3052
r169 19 54 8.02037
r170 19 22 20.3052
r171 17 91 20.306
r172 16 17 20.3052
r173 13 51 8.02037
r174 13 16 20.3052
r175 11 90 20.306
r176 10 11 20.3052
r177 7 50 8.02037
r178 7 10 20.3052
r179 5 89 20.306
r180 4 5 20.3052
r181 1 49 8.02037
r182 1 4 20.3052
.ends

.subckt PM_NOR2D4_net10 1 6 10 11 15 20 24 25 29 34 38 39 43 48 52 53 57 62 66
+ 67 71 76 80 81 85 90 94 95 99 104 108 109 113 118 122 123 134 135 136 137 138
+ 139 140 141 142 143 144 145 146 147 148 149 150 151
r214 123 151 20.306
r215 122 123 20.3052
r216 119 133 6.97267
r217 119 122 20.3052
r218 117 118 20.3052
r219 117 150 20.3052
r220 113 133 6.97267
r221 113 118 20.306
r222 112 132 4.89506
r223 111 133 0.353334
r224 111 112 16.3169
r225 109 149 20.306
r226 108 109 20.3052
r227 105 132 8.70233
r228 105 108 20.3052
r229 103 104 20.3052
r230 103 148 20.3052
r231 99 132 8.70233
r232 99 104 20.306
r233 98 131 4.89506
r234 97 132 4.89506
r235 97 98 16.3169
r236 95 147 20.306
r237 94 95 20.3052
r238 91 131 8.70233
r239 91 94 20.3052
r240 89 90 20.3052
r241 89 146 20.3052
r242 85 131 8.70233
r243 85 90 20.306
r244 84 130 4.89506
r245 83 131 4.89506
r246 83 84 16.3169
r247 81 145 20.306
r248 80 81 20.3052
r249 77 130 8.70233
r250 77 80 20.3052
r251 75 76 20.3052
r252 75 144 20.3052
r253 71 130 8.70233
r254 71 76 20.306
r255 70 129 4.89506
r256 69 130 4.89506
r257 69 70 16.3169
r258 67 143 20.306
r259 66 67 20.3052
r260 63 129 8.70233
r261 63 66 20.3052
r262 61 62 20.3052
r263 61 142 20.3052
r264 57 129 8.70233
r265 57 62 20.306
r266 56 128 4.89506
r267 55 129 4.89506
r268 55 56 16.3169
r269 53 141 20.306
r270 52 53 20.3052
r271 49 128 8.70233
r272 49 52 20.3052
r273 47 48 20.3052
r274 47 140 20.3052
r275 43 128 8.70233
r276 43 48 20.306
r277 42 127 4.89506
r278 41 128 4.89506
r279 41 42 16.3169
r280 39 139 20.306
r281 38 39 20.3052
r282 35 127 8.70233
r283 35 38 20.3052
r284 33 34 20.3052
r285 33 138 20.3052
r286 29 127 8.70233
r287 29 34 20.306
r288 28 126 4.89506
r289 27 127 4.89506
r290 27 28 16.3169
r291 25 137 20.306
r292 24 25 20.3052
r293 21 126 8.70233
r294 21 24 20.3052
r295 19 20 20.3052
r296 19 136 20.3052
r297 15 126 8.70233
r298 15 20 20.306
r299 14 125 0.353334
r300 13 126 4.89506
r301 13 14 16.3169
r302 11 135 20.306
r303 10 11 20.3052
r304 7 125 6.97267
r305 7 10 20.3052
r306 5 6 20.3052
r307 5 134 20.3052
r308 1 125 6.97267
r309 1 6 20.306
.ends

.subckt PM_NOR2D4_OUT 1 5 6 11 12 17 18 23 24 29 30 35 36 41 42 47 48 59 61 62
+ 63 64 65 66 67 68 69
r107 59 60 7.86954
r108 58 59 7.86954
r109 57 58 7.86954
r110 53 63 5.90215
r111 52 53 7.86954
r112 51 52 7.86954
r113 50 51 7.86954
r114 48 69 20.306
r115 47 48 20.3052
r116 44 60 10.4807
r117 44 47 20.3052
r118 42 68 20.306
r119 41 42 20.3052
r120 38 59 10.4807
r121 38 41 20.3052
r122 36 67 20.306
r123 35 36 20.3052
r124 32 58 10.4807
r125 32 35 20.3052
r126 30 66 20.306
r127 29 30 20.3052
r128 26 57 10.4807
r129 26 29 20.3052
r130 24 65 20.306
r131 23 24 20.3052
r132 20 53 10.4807
r133 20 23 20.3052
r134 18 64 20.306
r135 17 18 20.3052
r136 14 52 10.4807
r137 14 17 20.3052
r138 12 62 20.306
r139 11 12 20.3052
r140 8 51 10.4807
r141 8 11 20.3052
r142 6 61 20.306
r143 5 6 20.3052
r144 2 50 10.4807
r145 2 5 20.3052
r146 1 57 1.95755
r147 1 63 0.00983692
.ends

.subckt PM_NOR2D4_VDD 1 6 11 14 19 22 27 30 35 38 43 46 51 54 59 62 67 71 76 79
+ 84 87 92 95 100 103 108 111 116 119 124 127 132 151 152 153 154 155 156 157
+ 158 159 160 161 162 163 164 165 166
r200 131 132 20.3052
r201 131 166 20.3052
r202 127 150 1.43649
r203 127 132 20.306
r204 126 149 5.52744
r205 125 150 5.52744
r206 125 126 21.7558
r207 123 124 20.3052
r208 123 165 20.3052
r209 119 149 1.43649
r210 119 124 20.306
r211 118 148 5.52744
r212 117 149 5.52744
r213 117 118 21.7558
r214 115 116 20.3052
r215 115 164 20.3052
r216 111 148 1.43649
r217 111 116 20.306
r218 110 147 5.52744
r219 109 148 5.52744
r220 109 110 21.7558
r221 107 108 20.3052
r222 107 163 20.3052
r223 103 147 1.43649
r224 103 108 20.306
r225 102 146 5.52744
r226 101 147 5.52744
r227 101 102 21.7558
r228 99 100 20.3052
r229 99 162 20.3052
r230 95 146 1.43649
r231 95 100 20.306
r232 94 145 5.52744
r233 93 146 5.52744
r234 93 94 21.7558
r235 91 92 20.3052
r236 91 161 20.3052
r237 87 145 1.43649
r238 87 92 20.306
r239 86 144 5.52744
r240 85 145 5.52744
r241 85 86 21.7558
r242 83 84 20.3052
r243 83 160 20.3052
r244 79 144 1.43649
r245 79 84 20.306
r246 78 143 5.52744
r247 77 144 5.52744
r248 77 78 21.7558
r249 75 76 20.3052
r250 75 159 20.3052
r251 71 143 1.43649
r252 71 76 20.306
r253 69 142 5.52744
r254 68 143 5.52744
r255 66 67 20.3052
r256 66 158 20.3052
r257 62 142 1.43649
r258 62 67 20.306
r259 61 141 5.52744
r260 60 142 5.52744
r261 60 61 21.7558
r262 58 59 20.3052
r263 58 157 20.3052
r264 54 141 1.43649
r265 54 59 20.306
r266 53 140 5.52744
r267 52 141 5.52744
r268 52 53 21.7558
r269 50 51 20.3052
r270 50 156 20.3052
r271 46 140 1.43649
r272 46 51 20.306
r273 45 139 5.52744
r274 44 140 5.52744
r275 44 45 21.7558
r276 42 43 20.3052
r277 42 155 20.3052
r278 38 139 1.43649
r279 38 43 20.306
r280 37 138 5.52744
r281 36 139 5.52744
r282 36 37 21.7558
r283 34 35 20.3052
r284 34 154 20.3052
r285 30 138 1.43649
r286 30 35 20.306
r287 29 137 5.52744
r288 28 138 5.52744
r289 28 29 21.7558
r290 26 27 20.3052
r291 26 153 20.3052
r292 22 137 1.43649
r293 22 27 20.306
r294 21 136 5.52744
r295 20 137 5.52744
r296 20 21 21.7558
r297 18 19 20.3052
r298 18 152 20.3052
r299 14 136 1.43649
r300 14 19 20.306
r301 13 135 5.52744
r302 12 136 5.52744
r303 12 13 21.7558
r304 10 11 20.3052
r305 10 151 20.3052
r306 6 135 1.43649
r307 6 11 20.306
r308 1 68 27.891
r309 1 69 24.323
.ends

.subckt PM_NOR2D4_net12 1 6 10 11 15 20 24 25 29 34 38 39 43 48 52 53 57 62 66
+ 67 71 76 80 81 85 90 94 95 99 104 108 109 113 118 122 123 134 135 136 137 138
+ 139 140 141 142 143 144 145 146 147 148 149 150 151
r212 123 151 20.306
r213 122 123 20.3052
r214 119 133 6.97267
r215 119 122 20.3052
r216 117 118 20.3052
r217 117 150 20.3052
r218 113 133 6.97267
r219 113 118 20.306
r220 112 132 4.89506
r221 111 133 0.353334
r222 111 112 16.3169
r223 109 149 20.306
r224 108 109 20.3052
r225 105 132 8.70233
r226 105 108 20.3052
r227 103 104 20.3052
r228 103 148 20.3052
r229 99 132 8.70233
r230 99 104 20.306
r231 98 131 4.89506
r232 97 132 4.89506
r233 97 98 16.3169
r234 95 147 20.306
r235 94 95 20.3052
r236 91 131 8.70233
r237 91 94 20.3052
r238 89 90 20.3052
r239 89 146 20.3052
r240 85 131 8.70233
r241 85 90 20.306
r242 84 130 4.89506
r243 83 131 4.89506
r244 83 84 16.3169
r245 81 145 20.306
r246 80 81 20.3052
r247 77 130 8.70233
r248 77 80 20.3052
r249 75 76 20.3052
r250 75 144 20.3052
r251 71 130 8.70233
r252 71 76 20.306
r253 70 129 4.89506
r254 69 130 4.89506
r255 69 70 16.3169
r256 67 143 20.306
r257 66 67 20.3052
r258 63 129 8.70233
r259 63 66 20.3052
r260 61 62 20.3052
r261 61 142 20.3052
r262 57 129 8.70233
r263 57 62 20.306
r264 56 128 4.89506
r265 55 129 4.89506
r266 55 56 16.3169
r267 53 141 20.306
r268 52 53 20.3052
r269 49 128 8.70233
r270 49 52 20.3052
r271 47 48 20.3052
r272 47 140 20.3052
r273 43 128 8.70233
r274 43 48 20.306
r275 42 127 4.89506
r276 41 128 4.89506
r277 41 42 16.3169
r278 39 139 20.306
r279 38 39 20.3052
r280 35 127 8.70233
r281 35 38 20.3052
r282 33 34 20.3052
r283 33 138 20.3052
r284 29 127 8.70233
r285 29 34 20.306
r286 28 126 4.89506
r287 27 127 4.89506
r288 27 28 16.3169
r289 25 137 20.306
r290 24 25 20.3052
r291 21 126 8.70233
r292 21 24 20.3052
r293 19 20 20.3052
r294 19 136 20.3052
r295 15 126 8.70233
r296 15 20 20.306
r297 14 125 0.353334
r298 13 126 4.89506
r299 13 14 16.3169
r300 11 135 20.306
r301 10 11 20.3052
r302 7 125 6.97267
r303 7 10 20.3052
r304 5 6 20.3052
r305 5 134 20.3052
r306 1 125 6.97267
r307 1 6 20.306
.ends

.subckt PM_NOR2D4_IN2 1 9 12 15 16 18 19 20 23 24 26 32 34 40 42 44 47 48 50 51
+ 52 55 56 58 64 66 72 74 76 79 80 82 83 84 87 88 90 96 98 104 106 108 111 112
+ 114 115 116 119 120 122 128 130 136 138 141 142 144 147 148 150 151 152 155
+ 156 158 164 166 172 174 176 179 180 182 183 184 187 188 190 196 198 204 206
+ 208 211 212 214 215 216 219 220 222 228 230 236 238 240 243 244 246 247 248
+ 251 252 254 260 262 264 268 270 369 370 371 372 373 374 375 376 377 378 379
+ 380 381 382 383 384 385 386 387 388 389 390 391 392 393 394 395 396 397 398
+ 399 400
r421 269 270 0.62445
r422 269 400 0.62445
r423 268 400 0.624484
r424 267 268 0.62445
r425 264 270 0.624484
r426 263 267 0.62445
r427 261 262 0.62445
r428 261 399 0.62445
r429 260 399 0.624484
r430 259 260 0.62445
r431 256 264 0.8856
r432 256 262 0.624484
r433 255 263 0.8856
r434 255 259 0.62445
r435 253 254 0.62445
r436 253 398 0.62445
r437 252 398 0.624484
r438 251 252 0.62445
r439 248 256 0.8856
r440 248 254 0.624484
r441 247 255 0.8856
r442 247 251 0.62445
r443 245 246 0.62445
r444 245 397 0.62445
r445 244 397 0.624484
r446 243 244 0.62445
r447 240 248 0.8856
r448 240 246 0.624484
r449 239 247 0.8856
r450 239 243 0.62445
r451 237 238 0.62445
r452 237 396 0.62445
r453 236 396 0.624484
r454 235 236 0.62445
r455 232 240 0.8856
r456 232 238 0.624484
r457 231 239 0.8856
r458 231 235 0.62445
r459 229 230 0.62445
r460 229 395 0.62445
r461 228 395 0.624484
r462 227 228 0.62445
r463 224 232 0.8856
r464 224 230 0.624484
r465 223 231 0.8856
r466 223 227 0.62445
r467 221 222 0.62445
r468 221 394 0.62445
r469 220 394 0.624484
r470 219 220 0.62445
r471 216 224 0.8856
r472 216 222 0.624484
r473 215 223 0.8856
r474 215 219 0.62445
r475 213 214 0.62445
r476 213 393 0.62445
r477 212 393 0.624484
r478 211 212 0.62445
r479 208 216 0.8856
r480 208 214 0.624484
r481 207 215 0.8856
r482 207 211 0.62445
r483 205 206 0.62445
r484 205 392 0.62445
r485 204 392 0.624484
r486 203 204 0.62445
r487 200 208 0.8856
r488 200 206 0.624484
r489 199 207 0.8856
r490 199 203 0.62445
r491 197 198 0.62445
r492 197 391 0.62445
r493 196 391 0.624484
r494 195 196 0.62445
r495 192 200 0.8856
r496 192 198 0.624484
r497 191 199 0.8856
r498 191 195 0.62445
r499 189 190 0.62445
r500 189 390 0.62445
r501 188 390 0.624484
r502 187 188 0.62445
r503 184 192 0.8856
r504 184 190 0.624484
r505 183 191 0.8856
r506 183 187 0.62445
r507 181 182 0.62445
r508 181 389 0.62445
r509 180 389 0.624484
r510 179 180 0.62445
r511 176 184 0.8856
r512 176 182 0.624484
r513 175 183 0.8856
r514 175 179 0.62445
r515 173 174 0.62445
r516 173 388 0.62445
r517 172 388 0.624484
r518 171 172 0.62445
r519 168 176 0.8856
r520 168 174 0.624484
r521 167 175 0.8856
r522 167 171 0.62445
r523 165 166 0.62445
r524 165 387 0.62445
r525 164 387 0.624484
r526 163 164 0.62445
r527 160 168 0.8856
r528 160 166 0.624484
r529 159 167 0.8856
r530 159 163 0.62445
r531 157 158 0.62445
r532 157 386 0.62445
r533 156 386 0.624484
r534 155 156 0.62445
r535 152 160 0.8856
r536 152 158 0.624484
r537 151 159 0.8856
r538 151 155 0.62445
r539 149 150 0.62445
r540 149 385 0.62445
r541 148 385 0.624484
r542 147 148 0.62445
r543 144 152 0.8856
r544 144 150 0.624484
r545 143 151 0.8856
r546 143 147 0.62445
r547 141 144 0.28782
r548 141 142 1.85976
r549 139 143 0.28782
r550 139 140 1.85976
r551 137 138 0.62445
r552 137 384 0.62445
r553 136 384 0.624484
r554 135 136 0.62445
r555 132 142 0.28782
r556 132 138 0.624484
r557 131 140 0.28782
r558 131 135 0.62445
r559 129 130 0.62445
r560 129 383 0.62445
r561 128 383 0.624484
r562 127 128 0.62445
r563 124 132 0.8856
r564 124 130 0.624484
r565 123 131 0.8856
r566 123 127 0.62445
r567 121 122 0.62445
r568 121 382 0.62445
r569 120 382 0.624484
r570 119 120 0.62445
r571 116 124 0.8856
r572 116 122 0.624484
r573 115 123 0.8856
r574 115 119 0.62445
r575 113 114 0.62445
r576 113 381 0.62445
r577 112 381 0.624484
r578 111 112 0.62445
r579 108 116 0.8856
r580 108 114 0.624484
r581 107 115 0.8856
r582 107 111 0.62445
r583 105 106 0.62445
r584 105 380 0.62445
r585 104 380 0.624484
r586 103 104 0.62445
r587 100 108 0.8856
r588 100 106 0.624484
r589 99 107 0.8856
r590 99 103 0.62445
r591 97 98 0.62445
r592 97 379 0.62445
r593 96 379 0.624484
r594 95 96 0.62445
r595 92 100 0.8856
r596 92 98 0.624484
r597 91 99 0.8856
r598 91 95 0.62445
r599 89 90 0.62445
r600 89 378 0.62445
r601 88 378 0.624484
r602 87 88 0.62445
r603 84 92 0.8856
r604 84 90 0.624484
r605 83 91 0.8856
r606 83 87 0.62445
r607 81 82 0.62445
r608 81 377 0.62445
r609 80 377 0.624484
r610 79 80 0.62445
r611 76 84 0.8856
r612 76 82 0.624484
r613 75 83 0.8856
r614 75 79 0.62445
r615 73 74 0.62445
r616 73 376 0.62445
r617 72 376 0.624484
r618 71 72 0.62445
r619 68 76 0.8856
r620 68 74 0.624484
r621 67 75 0.8856
r622 67 71 0.62445
r623 65 66 0.62445
r624 65 375 0.62445
r625 64 375 0.624484
r626 63 64 0.62445
r627 60 68 0.8856
r628 60 66 0.624484
r629 59 67 0.8856
r630 59 63 0.62445
r631 57 58 0.62445
r632 57 374 0.62445
r633 56 374 0.624484
r634 55 56 0.62445
r635 52 60 0.8856
r636 52 58 0.624484
r637 51 59 0.8856
r638 51 55 0.62445
r639 49 50 0.62445
r640 49 373 0.62445
r641 48 373 0.624484
r642 47 48 0.62445
r643 44 52 0.8856
r644 44 50 0.624484
r645 43 51 0.8856
r646 43 47 0.62445
r647 41 42 0.62445
r648 41 372 0.62445
r649 40 372 0.624484
r650 39 40 0.62445
r651 36 44 0.8856
r652 36 42 0.624484
r653 35 43 0.8856
r654 35 39 0.62445
r655 33 34 0.62445
r656 33 371 0.62445
r657 32 371 0.624484
r658 31 32 0.62445
r659 28 36 0.8856
r660 28 34 0.624484
r661 27 35 0.8856
r662 27 31 0.62445
r663 25 26 0.62445
r664 25 370 0.62445
r665 24 370 0.624484
r666 23 24 0.62445
r667 20 28 0.8856
r668 20 26 0.624484
r669 19 27 0.8856
r670 19 23 0.62445
r671 17 18 0.62445
r672 17 369 0.62445
r673 16 369 0.624484
r674 15 16 0.62445
r675 12 20 0.8856
r676 12 18 0.624484
r677 11 19 0.8856
r678 11 15 0.62445
r679 9 12 0.28782
r680 9 10 0.92988
r681 6 11 0.28782
r682 4 5 1.62359
r683 3 10 0.247405
r684 3 5 1.62361
r685 2 7 0.247405
r686 2 4 1.62359
r687 1 6 0.371952
r688 1 7 0.557928
.ends

.subckt PM_NOR2D4_IN1 1 6 12 15 16 18 19 20 23 24 26 32 34 40 42 44 47 48 50 51
+ 52 55 56 58 64 66 72 74 76 79 80 82 83 84 87 88 90 96 98 104 106 108 111 112
+ 114 115 116 119 120 122 128 130 136 138 139 140 144 147 148 150 151 152 155
+ 156 158 164 166 172 174 176 179 180 182 183 184 187 188 190 196 198 204 206
+ 208 211 212 214 215 216 219 220 222 228 230 236 238 240 243 244 246 247 248
+ 251 252 254 260 262 263 268 270 369 370 371 372 373 374 375 376 377 378 379
+ 380 381 382 383 384 385 386 387 388 389 390 391 392 393 394 395 396 397 398
+ 399 400
r413 269 270 0.62445
r414 269 400 0.62445
r415 268 400 0.624484
r416 267 268 0.62445
r417 264 270 0.624484
r418 263 267 0.62445
r419 261 262 0.62445
r420 261 399 0.62445
r421 260 399 0.624484
r422 259 260 0.62445
r423 256 264 0.8856
r424 256 262 0.624484
r425 255 263 0.8856
r426 255 259 0.62445
r427 253 254 0.62445
r428 253 398 0.62445
r429 252 398 0.624484
r430 251 252 0.62445
r431 248 256 0.8856
r432 248 254 0.624484
r433 247 255 0.8856
r434 247 251 0.62445
r435 245 246 0.62445
r436 245 397 0.62445
r437 244 397 0.624484
r438 243 244 0.62445
r439 240 248 0.8856
r440 240 246 0.624484
r441 239 247 0.8856
r442 239 243 0.62445
r443 237 238 0.62445
r444 237 396 0.62445
r445 236 396 0.624484
r446 235 236 0.62445
r447 232 240 0.8856
r448 232 238 0.624484
r449 231 239 0.8856
r450 231 235 0.62445
r451 229 230 0.62445
r452 229 395 0.62445
r453 228 395 0.624484
r454 227 228 0.62445
r455 224 232 0.8856
r456 224 230 0.624484
r457 223 231 0.8856
r458 223 227 0.62445
r459 221 222 0.62445
r460 221 394 0.62445
r461 220 394 0.624484
r462 219 220 0.62445
r463 216 224 0.8856
r464 216 222 0.624484
r465 215 223 0.8856
r466 215 219 0.62445
r467 213 214 0.62445
r468 213 393 0.62445
r469 212 393 0.624484
r470 211 212 0.62445
r471 208 216 0.8856
r472 208 214 0.624484
r473 207 215 0.8856
r474 207 211 0.62445
r475 205 206 0.62445
r476 205 392 0.62445
r477 204 392 0.624484
r478 203 204 0.62445
r479 200 208 0.8856
r480 200 206 0.624484
r481 199 207 0.8856
r482 199 203 0.62445
r483 197 198 0.62445
r484 197 391 0.62445
r485 196 391 0.624484
r486 195 196 0.62445
r487 192 200 0.8856
r488 192 198 0.624484
r489 191 199 0.8856
r490 191 195 0.62445
r491 189 190 0.62445
r492 189 390 0.62445
r493 188 390 0.624484
r494 187 188 0.62445
r495 184 192 0.8856
r496 184 190 0.624484
r497 183 191 0.8856
r498 183 187 0.62445
r499 181 182 0.62445
r500 181 389 0.62445
r501 180 389 0.624484
r502 179 180 0.62445
r503 176 184 0.8856
r504 176 182 0.624484
r505 175 183 0.8856
r506 175 179 0.62445
r507 173 174 0.62445
r508 173 388 0.62445
r509 172 388 0.624484
r510 171 172 0.62445
r511 168 176 0.8856
r512 168 174 0.624484
r513 167 175 0.8856
r514 167 171 0.62445
r515 165 166 0.62445
r516 165 387 0.62445
r517 164 387 0.624484
r518 163 164 0.62445
r519 160 168 0.8856
r520 160 166 0.624484
r521 159 167 0.8856
r522 159 163 0.62445
r523 157 158 0.62445
r524 157 386 0.62445
r525 156 386 0.624484
r526 155 156 0.62445
r527 152 160 0.8856
r528 152 158 0.624484
r529 151 159 0.8856
r530 151 155 0.62445
r531 149 150 0.62445
r532 149 385 0.62445
r533 148 385 0.624484
r534 147 148 0.62445
r535 144 152 0.8856
r536 144 150 0.624484
r537 143 151 0.8856
r538 143 147 0.62445
r539 141 144 0.28782
r540 141 142 1.85976
r541 139 143 0.28782
r542 139 140 1.85976
r543 137 138 0.62445
r544 137 384 0.62445
r545 136 384 0.624484
r546 135 136 0.62445
r547 132 142 0.28782
r548 132 138 0.624484
r549 131 140 0.28782
r550 131 135 0.62445
r551 129 130 0.62445
r552 129 383 0.62445
r553 128 383 0.624484
r554 127 128 0.62445
r555 124 132 0.8856
r556 124 130 0.624484
r557 123 131 0.8856
r558 123 127 0.62445
r559 121 122 0.62445
r560 121 382 0.62445
r561 120 382 0.624484
r562 119 120 0.62445
r563 116 124 0.8856
r564 116 122 0.624484
r565 115 123 0.8856
r566 115 119 0.62445
r567 113 114 0.62445
r568 113 381 0.62445
r569 112 381 0.624484
r570 111 112 0.62445
r571 108 116 0.8856
r572 108 114 0.624484
r573 107 115 0.8856
r574 107 111 0.62445
r575 105 106 0.62445
r576 105 380 0.62445
r577 104 380 0.624484
r578 103 104 0.62445
r579 100 108 0.8856
r580 100 106 0.624484
r581 99 107 0.8856
r582 99 103 0.62445
r583 97 98 0.62445
r584 97 379 0.62445
r585 96 379 0.624484
r586 95 96 0.62445
r587 92 100 0.8856
r588 92 98 0.624484
r589 91 99 0.8856
r590 91 95 0.62445
r591 89 90 0.62445
r592 89 378 0.62445
r593 88 378 0.624484
r594 87 88 0.62445
r595 84 92 0.8856
r596 84 90 0.624484
r597 83 91 0.8856
r598 83 87 0.62445
r599 81 82 0.62445
r600 81 377 0.62445
r601 80 377 0.624484
r602 79 80 0.62445
r603 76 84 0.8856
r604 76 82 0.624484
r605 75 83 0.8856
r606 75 79 0.62445
r607 73 74 0.62445
r608 73 376 0.62445
r609 72 376 0.624484
r610 71 72 0.62445
r611 68 76 0.8856
r612 68 74 0.624484
r613 67 75 0.8856
r614 67 71 0.62445
r615 65 66 0.62445
r616 65 375 0.62445
r617 64 375 0.624484
r618 63 64 0.62445
r619 60 68 0.8856
r620 60 66 0.624484
r621 59 67 0.8856
r622 59 63 0.62445
r623 57 58 0.62445
r624 57 374 0.62445
r625 56 374 0.624484
r626 55 56 0.62445
r627 52 60 0.8856
r628 52 58 0.624484
r629 51 59 0.8856
r630 51 55 0.62445
r631 49 50 0.62445
r632 49 373 0.62445
r633 48 373 0.624484
r634 47 48 0.62445
r635 44 52 0.8856
r636 44 50 0.624484
r637 43 51 0.8856
r638 43 47 0.62445
r639 41 42 0.62445
r640 41 372 0.62445
r641 40 372 0.624484
r642 39 40 0.62445
r643 36 44 0.8856
r644 36 42 0.624484
r645 35 43 0.8856
r646 35 39 0.62445
r647 33 34 0.62445
r648 33 371 0.62445
r649 32 371 0.624484
r650 31 32 0.62445
r651 28 36 0.8856
r652 28 34 0.624484
r653 27 35 0.8856
r654 27 31 0.62445
r655 25 26 0.62445
r656 25 370 0.62445
r657 24 370 0.624484
r658 23 24 0.62445
r659 20 28 0.8856
r660 20 26 0.624484
r661 19 27 0.8856
r662 19 23 0.62445
r663 17 18 0.62445
r664 17 369 0.62445
r665 16 369 0.624484
r666 15 16 0.62445
r667 12 20 0.8856
r668 12 18 0.624484
r669 11 19 0.8856
r670 11 15 0.62445
r671 8 12 0.28782
r672 6 11 0.28782
r673 6 7 0.92988
r674 4 5 1.62359
r675 3 9 0.247405
r676 3 5 1.62361
r677 2 7 0.247405
r678 2 4 1.62359
r679 1 8 0.449442
r680 1 9 0.480438
.ends

