************************************************************************
* auCdl Netlist:
* 
* Library Name:  OTFT_stdlib_cells
* Top Cell Name: NOR2D1
* View Name:     schematic
* Netlisted on:  Dec 22 21:06:05 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: OTFT_stdlib_cells
* Cell Name:    NOR2D1
* View Name:    schematic
************************************************************************

.SUBCKT NOR2D1 IN1 IN2 OUT VDD VSS
*.PININFO IN1:I IN2:I VDD:I VSS:I OUT:O
MI5 VSS net11 OUT ptft W=100u L=10u
MI4 VSS VSS net11 ptft W=100u L=10u
MI3 OUT IN2 net12 ptft W=800u L=10u
MI2 net12 IN1 VDD ptft W=800u L=10u
MI1 net11 IN2 net10 ptft W=800u L=10u
MI0 net10 IN1 VDD ptft W=800u L=10u
.ENDS

